US08664216B2
a) (RS)-1-Benzyl-4-(2-hydroxymethyl-phenyl)-azepan-4-ol
To a solution of 2-bromobenzyl alcohol (7.8 g, 42 mmol) in tetrahydrofuran (80 ml) was added dropwise a 2.8 M solution of ethylmagnesium chloride in tetrahydrofuran (15 ml, 42 mmol). The reaction was exothermic, and the rate of addition was adjusted to maintain a gentle reflux. After completed addition magnesium turnings (1.0 g, 42 mmol) were added in portions. The mixture was heated at reflux for 2 h before addition of a solution of 1-benzyl-azepan-4-one (8.5 g, 42 mmol) in tetrahydrofuran (40 ml). The reaction mixture was heated for another 4 h at reflux. Cooling to room temperature was followed by slow addition of saturated ammonium chloride solution (50 ml), water (100 ml) and ethyl acetate (300 ml). The layers were separated, and the organic layer was concentrated to give a green oil. Flash column chromatography using a 2:1 mixture of heptane and ethyl acetate as eluent gave the title compound as a light yellow oil (8.0 g, 61%).

reactant | 2-bromobenzyl alcohol | 42 mmol, 7.8 g | BrC1=C(CO)C=CC=C1 | C7H7BrO
reactant | ethylmagnesium chloride | C(C)[Mg]Cl
reactant | magnesium | 42 mmol, 1.0 g | [Mg] | Mg
reactant | 1-benzyl-azepan-4-one | 42 mmol, 8.5 g | C(C1=CC=CC=C1)N1CCC(CCC1)=O | C13H17NO
reactant | ammonium chloride | 50 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | heptane | CCCCCCC | C7H16
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 42 mmol, 15 ml | O1CCCC1 | C4H8O
solvent | water | 100 ml | O | H2O
product | (RS)-1-Benzyl-4-(2-hydroxymethyl-phenyl)-azepan-4-ol | 8.0 g, 61% | C(C1=CC=CC=C1)N1CCC(CCC1)(O)C1=C(C=CC=C1)CO | C20H25NO2
